US08202873B2
Methyl-carbamic acid 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl ester hydrochloride
Dissolve {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol (200 mg, 0.53 mmol) in DCM (5 mL) at room temperature under nitrogen. Add carbonyl diimidazole (94 mg, 0.58 mmol) and stir for 20 hr. Add a solution of methylamine in tetrahydrofuran (2 M, 2 mL, 4.0 mmol) and stir reaction for 2 hr. at room temperature. Quench reaction with water (10 mL) then extract with DCM (2×10 mL), pass through an IST Phase Separator Frit® and concentrate. Purify by low pH reverse phase HPLC, and form the free base by passing through an SCX-2® ion exchange cartridge washing with methanol then eluting with 3 M ammonia in methanol. Dissolve the oil in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a yellow powder (28 mg, 12%). MS (ES): m/z=436 [M+H]+

reactant | {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol | 0.53 mmol, 200 mg | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO | C21H26N6O
reactant | carbonyl diimidazole | 0.58 mmol, 94 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 4.0 mmol, 2 M, 2 mL | O1CCCC1 | C4H8O
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl-carbamic acid 4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl ester hydrochloride | 28 mg, 12% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(COC(NC)=O)C=C1 | InChI=1S/C23H29N7O2.ClH/c1-17-20(14-27-28(17)3)15-29-10-12-30(13-11-29)22-21(25-8-9-26-22)19-6-4-18(5-7-19)16-32-23(31)24-2;/h4-9,14H,10-13,15-16H2,1-3H3,(H,24,31);1H
